US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-(quinolin-8-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Example 14, making variations as required to replace ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate with ethyl 4-methyl-2-(2-oxo-3-(quinolin-8-ylmethyl) imidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained as a colorless solid in 88% yield: MS (ES+) m/z 369.1 (M+1).

reactant | ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC | C19H19F3N2O3S
reactant | ethyl 4-methyl-2-(2-oxo-3-(quinolin-8-ylmethyl) imidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC=1C=CC=C2C=CC=NC12)=O | C20H20N4O3S
product | 4-methyl-2-(2-oxo-3-(quinolin-8-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | 88% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC=1C=CC=C2C=CC=NC12)=O | C18H16N4O3S
